US07301052B2
Example 1-1 Preparation of (CF3)2CFCOO(CH2)3O(CH2)3OCOCF(CF3)2
HO(CH2)3O(CH2)3OH (10 g) was loaded into an autoclave and stirred in a sealed state, and FCOCF(CF3)2 (36.95 g) was fed over 7 hours at room temperature with occasional pauses for bubbling with nitrogen gas under unsealed conditions. After the feeding, the reaction solution was stirred at room temperature for 1 hour and bubbled with nitrogen gas under unsealed conditions. The reaction solution was neutralized with saturated aqueous NaHCO3 (100 mL) and extracted with R-225 (100 mL) in twice. The organic phase was washed with saturated aqueous NaHCO3 (50 mL) and further with saturated aqueous NaCl (50 mL). The organic phase was dried over magnesium sulfate and filtered to give 36.13 g of a crude liquid.

reactant | HO(CH2)3O(CH2)3OH | 10 g | OCCCOCCCO | C6H14O3
reactant | FCOCF(CF3)2 | 36.95 g | FC(=O)C(F)(C(F)(F)F)C(F)(F)F | C4F8O
product | (CF3)2CFCOO(CH2)3O(CH2)3OCOCF(CF3)2 | 36.13 g, yield of 81% | C(F)(C(F)(F)F)(C(F)(F)F)C(=O)OCCCOCCCOC(=O)C(F)(C(F)(F)F)C(F)(F)F | C14H12F14O5
